US07763623B2
A mixture of 4,6-dihydroxy-2-mercapto-pyrimidine (20.0 g, 138.7 mmol) and methyl propionylacetate (21.8 mL, 173.4 mmol) was heated at 165° C. until the ester was completely reacted. The reaction mixture was cooled down and poured into water (75 mL) and then filtered through a sintered funnel. The solid residue was washed with water (2×20 mL) and dried under vacuum to yield 5-ethyl-2-thioxo-2,3-dihydro-1h-pyrano[2,3-d]pyrimidine-4,7-dione (11.6 g, 37%).

reactant | 4,6-dihydroxy-2-mercapto-pyrimidine | 138.7 mmol, 20.0 g | OC1=NC(=NC(=C1)O)S | C4H4N2O2S
reactant | methyl propionylacetate | 173.4 mmol, 21.8 mL | C(CC)(=O)CC(=O)OC | C6H10O3
solvent | water | 75 mL | O | H2O
product | 5-ethyl-2-thioxo-2,3-dihydro-1h-pyrano[2,3-d]pyrimidine-4,7-dione | 11.6 g, 37% | C(C)C1=CC(OC=2NC(NC(C21)=O)=S)=O | C9H8N2O3S
